US08754053B2
473 mg of 1-(4-Bromo-3-methyl-phenyl)-2-(triphenylphosphanylidene)-ethanone (Va) was refluxed with 243 mg of 1-(3,5-Dichloro-phenyl)-2,2,2-trifluoro-ethanone (VIa) (Journal of Physical Organic Chemistry (1989), 2(4), 363-6) in 3 ml of toluene for 3 hours. The solvent was then evaporated, and the residue was triturated with the mixture hexane:ethyl acetate 20:1. The solid that separated was filtered off and the filtrate after evaporation was purified on silica gel (40 g, hexane:acetate 10:1) giving 380 mg (86%) of 1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-en-1-one (IVa) as a yellow oil which solidified on standing (mixture of E and Z isomers). 1H-NMR (CDCl3, δ in ppm): 2.41 (s) and 2.46 (s) (total of 3H), 6.80-7.80 (m, total of 7H).

reactant | 1-(4-Bromo-3-methyl-phenyl)-2-(triphenylphosphanylidene)-ethanone | 473 mg | BrC1=C(C=C(C=C1)C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C27H22BrOP
reactant | 1-(3,5-Dichloro-phenyl)-2,2,2-trifluoro-ethanone | 243 mg | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-en-1-one | 380 mg, 86% | BrC1=C(C=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H10BrCl2F3O
